US06734191B2
Using General Procedure B: To a solution of 2-aminobenzylamine (0.36 g, 2.9 mmol) and 6,7-dihydro-5H-quinolin-8-one (0.43 g, 2.9 mmol) in CH2Cl2 (15 mL) was added NaBH(OAc)3 (0.92 g, 4.4 mmol) and the mixture stirred at room temperature for 64 h. Purification of the crude material by column chromatography on silica gel (2% MeOH/CH2Cl2) gave (5,6,7,8-tetrahydroquinolin-8-yl)-(2-aminobenzyl)-amine (0.39 g, 52%) as a yellow oil. 1H NMR (CDCl3) δ1.80 (m, 1H), 1.94 (m, 2H), 2.17 (m, 1H), 2.79 (m, 2H), 3.84 (m, 1H), 3.87 (d, 1H, J=11.7 Hz), 4.02 (d, 1H, J=12.0 Hz), 6.64 (d, 1H, J=7.8 Hz), 6.67 (t, 1H, J=7.8 Hz), 7.09 (m, 3H), 7.38 (d, 1H, J=3.0 Hz), 8.38 (d, 1H, J=3.9 Hz).

reactant | 2-aminobenzylamine | 2.9 mmol, 0.36 g | NC1=C(CN)C=CC=C1 | C7H10N2
reactant | 6,7-dihydro-5H-quinolin-8-one | 2.9 mmol, 0.43 g | N1=CC=CC=2CCCC(C12)=O | C9H9NO
reactant | NaBH(OAc)3 | 4.4 mmol, 0.92 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (5,6,7,8-tetrahydroquinolin-8-yl)-(2-aminobenzyl)-amine | 0.39 g, 52% | N1=CC=CC=2CCCC(C12)NCC1=C(C=CC=C1)N | C16H19N3
